US04827004
A solution of 0.5 g (0.0016 mol) of (6Z,10E)-2,6,10-trimethyl-12-[(tetrahydro-H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-ol dissolved in 14.5 ml of tetrahydrofuran and 3.7 ml of water is treated with 167.2 mg (0.4 mol equivalents) of pyridinium p-toluenesulfonate. The solution is boiled at reflux for 17 hours. After cooling 100 ml of water and 300 ml of ether are added. The organic phase is neutralized with sodium bicarbonate solution. After drying and removing the solvent the residue is chromatographed on silica gel with ether-hexane 1:1. There is obtained (6E,10Z)-2,6,10-trimethyl-1,6,10-dodecatriene-3,12-diol which has the following bands in the IR spectrum: 3346 cm-1, 1649 cm-1, 1446 cm-1, 1377 cm-1, 1001 cm-1.

reactant | water | 3.7 ml | O | H2O
reactant | pyridinium p-toluenesulfonate | 0.4 mol, 167.2 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | 100 ml | O | H2O
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | tetrahydrofuran | 14.5 ml | O1CCCC1 | C4H8O
product | (6E,10Z)-2,6,10-trimethyl-1,6,10-dodecatriene-3,12-diol | CC(=C)C(CC\C(=C\CC\C(=C/CO)\C)\C)O | C15H26O2
